US06710056B2
Ethyl 5-nitrothiophene-2-carboxylate:
5 g of 5-nitrothiophene-2-carboxylic acid was stirred in 100 ml of ethanol. 20 ml of dioxane containing 4 M of hydrogen chloride was added to the obtained mixture, and they were stirred at 60° C. for 2 days. The solvent was evaporated to obtain the title compound.

reactant | 5-nitrothiophene-2-carboxylic acid | 5 g | [N+](=O)([O-])C1=CC=C(S1)C(=O)O | C5H3NO4S
reactant | dioxane | 4 M, 20 ml | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 5-nitrothiophene-2-carboxylate | [N+](=O)([O-])C1=CC=C(S1)C(=O)OCC | C7H7NO4S
